US07041685B2
5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-(pyridin-2-yl)-1H-pyrazole
5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-(pyridin-2-yl)-4,5-dihydro-1H-pyrazole: The title compound was prepared from 3-(4-chloro-phenyl)-1-(3-chloro-thiophen-2-yl)-propenone and 2-hydrazinopyridine by a procedure similar to that of Example 105a as a yellowish oil (141 mg, 73.8%). 1H NMR (CDCl3): 8.04 (m, 1H), 7.59 (t, 1H), 7.46 (d, J=9.0 Hz, 1H), 7.27 (m, 6H), 6.92 (d, J=5.4 Hz, 1H), 6.68 (t, 1H), 4.01 (t, 1H), 3.41 (m, 1H).

reactant | 5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-(pyridin-2-yl)-4,5-dihydro-1H-pyrazole | ClC1=CC=C(C=C1)C1CC(=NN1C1=NC=CC=C1)C=1SC=CC1Cl | C18H13Cl2N3S
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
product | 5-(4-Chloro-phenyl)-3-(3-chloro-thiophen-2-yl)-1-(pyridin-2-yl)-1H-pyrazole | ClC1=CC=C(C=C1)C1=CC(=NN1C1=NC=CC=C1)C=1SC=CC1Cl | C18H11Cl2N3S
